US05192803
Ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate
A solution of 4.3 g of 4-(3,5-difluorophenoxy)phenol and 1.58 g of pyridine or 2.58 g of ethyl diisopropylamine in 35 ml of dry dimethyl sulfoxide is metered at a constant rate at +25° C. in the course of 5 hours to a solution of 6.4 g of ethyl N-phenylthio-2-methylsulfonyloxyethylcarbamate and 0.2 g of hydroquinone in 20 ml of anhydrous dimethyl sulfoxide, with stirring. The mixture is stirred for 5 more hours at room temperature. After this, the reaction mixture is poured into ice-water and extracted three times with an ether/hexane mixture (1:4), and the combined organic phases are washed with water and dried over sodium sulfate. After the solvents have been distilled off in vacuo, the crude product is purified by chromatography, by which process ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate is isolated, nD20 1.5700.

reactant | 4-(3,5-difluorophenoxy)phenol | 4.3 g | FC=1C=C(OC2=CC=C(C=C2)O)C=C(C1)F | C12H8F2O2
reactant | ethyl diisopropylamine | 2.58 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl N-phenylthio-2-methylsulfonyloxyethylcarbamate | 6.4 g | C1(=CC=CC=C1)SN(C(OCC)=O)CCOS(=O)(=O)C | C12H17NO5S2
reactant | hydroquinone | 0.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | dimethyl sulfoxide | 35 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | pyridine | 1.58 g | N1=CC=CC=C1 | C5H5N
product | Ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate | C1(=CC=CC=C1)SN(C(OCC)=O)CCOC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F | C23H21F2NO4S
